US04726911
A mixture of 0.1 mol of p-cyanobenzaldehyde, 0.1 mol of 3-hydroxymethyl-2-octanol, 200 ml of benzene and 150 mg of p-toluenesulfonic acid is boiled under a water separator until the reaction is complete. Usual working-up gives 2-p-cyanophenyl-5-n-pentyl-4-methyl-1,3-dioxane.

reactant | p-cyanobenzaldehyde | 0.1 mol | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 3-hydroxymethyl-2-octanol | 0.1 mol | OCC(C(C)O)CCCCC | C9H20O2
reactant | p-toluenesulfonic acid | 150 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-p-cyanophenyl-5-n-pentyl-4-methyl-1,3-dioxane | C(#N)C1=CC=C(C=C1)C1OCC(C(O1)C)CCCCC | C17H23NO2
